US04429125
O,O-diethyl O-(2-(1,1-dimethylethyl)-5-pyrimidinyl) phosphorothioate
To a mixture of 98 grams of 2-(1,1-dimethylethyl)-5-pyrimidinol, 130 grams of finely powdered potassium carbonate and 800 ml of acetonitrile was added 121 grams of O,O-diethyl phosphorochloridothioate. The temperature of the reaction mixture rose to 55° C. Stirring was continued until no more starting O,O-diethyl phosphorochloridothioate could be detected by gas-liquid chromatography. The reaction appeared to be complete in about 1 hour. The salts present were then removed by filtration, the filtrate concentrated in a rotary evaporator, the residue taken up in ether, the ether solution washed twice with 2 percent aqueous sodium hydroxide, and once with saturated sodium chloride solution, and dried over anhydrous sodium sulfate. The ether was then removed under vacuum leaving a pale yellow colored oil with a refractive index at 25° of 1.4913. On elemental analysis the product was found to contain by weight 47.38% carbon; 6.67% hydrogen and 9.19% nitrogen. Theoretical analysis is 47.35% carbon; 6.96% hydrogen and 9.21% nitrogen.

reactant | 2-(1,1-dimethylethyl)-5-pyrimidinol | 98 grams | CC(C)(C)C1=NC=C(C=N1)O | C8H12N2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | O,O-diethyl phosphorochloridothioate | 121 grams | P(OCC)(OCC)(Cl)=S | C4H10ClO2PS
reactant | hydrogen | [H][H] | H2
solvent | acetonitrile | 800 ml | C(C)#N | C2H3N
product | O,O-diethyl O-(2-(1,1-dimethylethyl)-5-pyrimidinyl) phosphorothioate | P(OCC)(OCC)(OC=1C=NC(=NC1)C(C)(C)C)=S | C12H21N2O3PS
